US08053431B2
3-[2-Ethyl-5-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-benzimidazol-1-yl]-propionic Acid Ethyl Ester
To a solution of 3-[2-amino-4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenylamino]-propionic acid ethyl ester (250 mg, 0.645 mmol) in dry NMP (10 mL) at room temperature under an inert atmosphere of nitrogen was added approx. 200 mg of molecular sieve 4 Å followed by acetaldehyde (93 uL, 1.29 mmol). The mixture was stirred for 16 hrs at 50° C. The reaction was quenched by the addition of water (100 mL) followed by extraction with diethyl ether (3×100 mL). The combined organic phases were washed with brine (4×200 mL), dried (MgSO4), filtered, and evaporated in vacuo. The resulting oil was purified by preparative HPLC, dried in vacuo at 50° C. affording 104 mg (38%) of the title compound as brown oil. MS-ESI m/z 426; 1H NMR (400 MHz, CDCl3) δ 0.88-1.06 (m, 6H), 1.11-1.23 (m, 7H), 1.24-1.28 (m) and 1.55-1.65 (m, 1H), 1.36-1.45 (m, 2H), 1.50 (t, 3H), 1.74-1.81 (m, 1H), 2.23-2.30 (m) and 3.12-3.20 (m, 1H), 2.81 (t, 2H), 2.96 (q, 2H), 3.22-3.35 (m, 1H), 3.32 (dd) and 3.62 (dd, 1H), 4.03-4.07 (m) and 4.63-4.67 (m, 1H), 4.13 (q, 2H), 4.45 (dt, 2H), 7.32-7.46 (m, 2H), 7.84 (d, 1H).

reactant | 3-[2-amino-4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenylamino]-propionic acid ethyl ester | 0.645 mmol, 250 mg | C(C)OC(CCNC1=C(C=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C)N)=O | C22H33N3O3
reactant | acetaldehyde | 1.29 mmol, 93 uL | C(C)=O | C2H4O
reactant | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | 3-[2-Ethyl-5-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-benzimidazol-1-yl]-propionic Acid Ethyl Ester | 104 mg, 38% | C(C)OC(CCN1C(=NC2=C1C=CC(=C2)C(=O)N2C1CC(CC(C2)(C1)C)(C)C)CC)=O | C25H35N3O3
